US06855710B2
c) (Z)-3-{1-[4-(N-cyanomethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 11 from 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and 4-(N-cyanomethyl-N-methylsulphonyl-amino)-aniline in DMF.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=CC=C12)=O | C17H15NO2
reactant | 4-(N-cyanomethyl-N-methylsulphonyl-amino)-aniline | C(#N)CN(S(=O)(=O)C)C1=CC=C(N)C=C1 | C9H11N3O2S
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-{1-[4-(N-cyanomethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | C(#N)CN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H20N4O3S
